US07531482B2
(5-Chlorothieno[2,3-d]pyrimidin-4-yl)-{2-[3-methoxy-4-(4-trifluoromethylpyridin-2-yloxy)phenyl]ethyl}amine
To a solution of 60 percent sodium hydride / oil dispersion (31 mg, 0.78 mmol) in DMSO (3 mL) was added 4-{2-[(5-chlorothieno[2,3-d]pyrimidin-4-yl)amino]ethyl}-2-methoxyphenol (250 mg, 0.75 mmol). After stirring for 30 min, 2-chloro-4-(trifluoromethyl)pyridine (141 mg, 0.78 mmol) was added and the reaction heated at 80° C. overnight. The reaction mixture was diluted with H2O and the precipitate collected by filtration. The filter cake washed with H2O and then dissolved in CH2Cl2. The organics were dried with (Na2SO4), filtered and the stripped in vacuo. The solid residue was triturated with a mixture of ether and pentane leaving a brown solid, 120 mg, 0.25 mmol, 33 percent yield.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-{2-[(5-chlorothieno[2,3-d]pyrimidin-4-yl)amino]ethyl}-2-methoxyphenol | 0.75 mmol, 250 mg | ClC1=CSC=2N=CN=C(C21)NCCC2=CC(=C(C=C2)O)OC | C15H14ClN3O2S
reactant | 2-chloro-4-(trifluoromethyl)pyridine | 0.78 mmol, 141 mg | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | (5-Chlorothieno[2,3-d]pyrimidin-4-yl)-{2-[3-methoxy-4-(4-trifluoromethylpyridin-2-yloxy)phenyl]ethyl}amine | 33 percent yield | ClC1=CSC=2N=CN=C(C21)NCCC2=CC(=C(C=C2)OC2=NC=CC(=C2)C(F)(F)F)OC | C21H16ClF3N4O2S
